.SUBCKT 3input0x23_X1 A1 A2 A3 VDD VSS Y
MM5 VSS A1 n3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 VSS A2 n3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 VSS A3 n3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 n2 A2 Y VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 n1 A3 n2 VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 VDD A1 n1 VDD pmos_rvt w=46.0n l=16n nfin=2
MM6 Y nand3 n3 VSS nmos_rvt w=46.0n l=16n nfin=2
MM7 VDD nand3 Y VDD pmos_rvt w=46.0n l=16n nfin=2
MM8 n4 A3 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM9 n5 A1 n4 VSS nmos_rvt w=46.0n l=16n nfin=2
MM10 nand3 A2 n5 VSS nmos_rvt w=46.0n l=16n nfin=2
MM11 nand3 A3 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM12 nand3 A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM13 nand3 A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS
